US07989565B2
A solution of 2.4 ml (17.8 mmol) 5-ethylidene-2-norbornene and 2 ml 1 M DMAC in 200 ml toluene was prepared in a Fischer-Porter bottle. The stirred reactor was heated to 50° C. and the toluene solution saturated with 2 bar propylene for 20 minutes. The activated catalyst solution (1.33 ml, 0.15 mM, Al/V=100) was then injected followed by 4.4 ml 23 mM solution of ethyl trichloroacetate in toluene. The propylene supply was turned off, the reactor connected to the ethylene line and pressurised with ethylene to 4 bar total pressure. The polymerisation reaction was carried out for 40 min. After the end of the experiment, the reactor was cooled to room temperature, depressurized via opening the vent and the reactor content poured into a beaker containing 400 ml methanol. The polymer was filtered, washed with methanol and dried in vacuo, at 60° C. for 12 h. Polymer yield—1 g. Activity—7500 g mmol−1 h−1.

reactant | DMAC | 1 M, 2 ml | CC(=O)N(C)C | C4H9NO
reactant | propylene | C=CC | C3H6
reactant | ethyl trichloroacetate | ClC(C(=O)OCC)(Cl)Cl | C4H5Cl3O2
reactant | ethylene | C=C | C2H4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 400 ml | CO | CH4O
product | 5-ethylidene-2-norbornene | 17.8 mmol, 2.4 ml | C(C)=C1C2C=CC(C1)C2 | C9H12
